Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
L toe gangrene
 
Major Surgical or Invasive Procedure:
Left lower extremity angiogram + Left SFA stent

 
History of Present Illness:
The patient is a ___ diabetic male with peripheral 
vascular disease who p/w wound on his left fifth digit.  He
denies any new problems.  He has completed his course of
antibiotics.  He is currently having no pain, fevers or chills. 
He states he has noted no drainage from the site. The patient 
presents with ischemic ulceration of the left fifth digit.  At 
the present time, it does not appear to be acutely infected.  Pt 
was referred by his podiatrist for angiogram evaluation.

 
Past Medical History:
PMH: PVD, Diabetes since ___ yoa, HTN, CVA ___ years ago s/p car 
accident, perioperative occipital lobe stroke ___

PSH: ___ Balloon angioplasty  of left superficial femoral 
artery. ___ Redo left below-knee popliteal to posterior 
tibial artery bypass with right basilic arm vein; RLE fem ___ 
___, Debridement right ___ toe ___ hallux 
amputation ___, LLE bypass x 2 (___), RLE knee 
surgery ___ years ago, gastric ulcer surgery 

 
Social History:
___
Family History:
N/C
 
Physical Exam:
T 97.1F HR 71 BP 134/60 RR 18 97%RA
Gen: NAD, AAOX3
CV: RRR, no m/r/g
Resp: CTABL, no w/r/r
Abd: soft, nondistended, nontender
Extremities: Groin incision c/d/i. Left ___ toe with dry 
necrotic ulcer.
Pulses: L: p/d/d/d faint R: p/d/d/d
 
Pertinent Results:
___ 06:10AM BLOOD WBC-7.6 RBC-4.23* Hgb-12.0* Hct-35.3* 
MCV-84 MCH-28.3 MCHC-33.9 RDW-13.5 Plt ___
___ 06:10AM BLOOD Glucose-169* UreaN-16 Creat-0.8 Na-135 
K-3.8 Cl-101 HCO3-30 AnGap-___ year old male w/DM and PVD s/p amputation of left ___ through 
___ toes p/w dry who presented with gangrene of L ___ toe. Pt 
arrived in preop for scheduled left lower extremity angiogram 
and placement of a Left SFA stent. Please see the operative 
report for details related to the procedure. Pt was briefly 
monitored in the PACU where he was unable to void due to lying 
flat and being restricted from standing up. He was straight 
catheterized to relieve his bladder without further urinary 
issues. Pt was transferred to the floor where he was monitored 
overnight without any issues. Pt was examined in the morning and 
determined to be in stable condition to be discharged home. He 
will follow up with Dr. ___ in clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral BID 
2. Gabapentin 100 mg PO TID 
3. ammonium lactate 12 % topical BID apply to bilateral feet 
4. Atenolol 25 mg PO DAILY 
5. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
6. ezetimibe-simvastatin ___ mg oral qd 
7. Amlodipine 5 mg PO DAILY 
8. Ranitidine 150 mg PO DAILY 
9. insulin glargine 44 units subcutaneous qd at lunchtime 
10. insulin lispro 100 unit/mL subcutaneous QACHS per sliding 
scale 
11. Clopidogrel 75 mg PO DAILY 
12. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
13. Aspirin 325 mg PO DAILY 
14. Citalopram 10 mg PO DAILY 
15. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Citalopram 10 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Gabapentin 100 mg PO TID 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
8. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
9. ammonium lactate 12 % topical BID apply to bilateral feet 
10. ezetimibe-simvastatin ___ mg oral qd 
11. insulin glargine 44 units SUBCUTANEOUS QD at lunchtime 
12. insulin lispro 100 unit/mL SUBCUTANEOUS QACHS per sliding 
scale 
13. lisinopril-hydrochlorothiazide ___ mg ORAL BID 
14. Ranitidine 150 mg PO DAILY 
15. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Non-healing ulcer of left toe
Secondary: Peripheral Vascular Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were 
hospitalized for gangrene of your left fifth toe and received an 
angiogram and stent to improve blood flow. You have been 
discharged in stable condition to follow up in clinic. Please 
follow the instructions below:

MEDICATION:
• Take Aspirin 325mg (enteric coated) once daily 
• If instructed, take Plavix (Clopidogrel) 75mg once daily
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort
WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications
CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site
SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___